US08431607B2
To a solution of (S)-[2-azido-1-(3-trifluoromethyl-phenyl)-ethyl]-carbamic acid ethyl ester (4.60 g, 15.2 mmol) in EtOH (200 mL) is added 10% Pd/C (˜200 mg). The resulted mixture is then degassed and filled with H2 and stirred at room temperature under H2 for 14 h. The mixture is then filtered through a pat of Celite to remove the Pd/C and washed with EtOH (3×10 mL). The filtrate is concentrate to provide the crude (S)-[2-amino-1-(3-trifluoromethyl-phenyl)-ethyl]-carbamic acid ethyl ester (˜4.0 g, 95%), which is used for next step without further purification.

reactant | (S)-[2-azido-1-(3-trifluoromethyl-phenyl)-ethyl]-carbamic acid ethyl ester | 15.2 mmol, 4.60 g | C(C)OC(N[C@H](CN=[N+]=[N-])C1=CC(=CC=C1)C(F)(F)F)=O | C12H13F3N4O2
solvent | EtOH | 200 mL | CCO | C2H6O
catalyst | Pd/C | ˜200 mg | [Pd] | Pd
product | (S)-[2-amino-1-(3-trifluoromethyl-phenyl)-ethyl]-carbamic acid ethyl ester | ˜4.0 g, 95% | C(C)OC(N[C@H](CN)C1=CC(=CC=C1)C(F)(F)F)=O | C12H15F3N2O2
